US08791132B2
Methanesulfonicacid-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethylester (300 mg, 0.75 mmol) in 70% ethylamine in water (15 mL) was heated at 100° C. for 18 h. The reaction mixture was cooled to RT and extracted with EtOAc (2×100 mL). The combined organic layer was washed with water (2×20 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by reverse phase chromatography to obtain 55 mg of [2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethyl]-ethyl-amine. 1H NMR (DMSO, TFA salt): δ (ppm): 8.5 (d, 2H), 7.3 (d, 1H), 7.2 (m, 3H), 6.9 (d, 1H), 4.7 (m, 2H), 4.43 (m, 2H), 4.1 (d, 1H), 3.3 (m, 1H), 3.0 (m, 2H), 2.85 (d, 6H), 2.8 (m, 1H), 2.5 (m, 2H), 2.3 (s, 3H), 1.22 (s, 3H). Chiral HPLC separates the racemate into enantiomers II-8a-b.

reactant | Methanesulfonicacid-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethylester | 0.75 mmol, 300 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C2=CC=NC=C2)OS(=O)(=O)C)CC1 | C21H25N3O3S
reactant | ethylamine | C(C)N | C2H7N
solvent | water | 15 mL | O | H2O
product | [2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethyl]-ethyl-amine | 55 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C2=CC=NC=C2)NCC)CC1 | C22H28N4
